US08470820B2
Step 2: 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (2-cyclohexyl-5-pyridin-2-yl-2H-pyrazol-3-yl)-amide
To a suspension of 6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (50 mg, 0.2 mmol; intermediate A-5) at r.t under an argon atmosphere were added 2-cyclohexyl-5-pyridin-2-yl-2H-pyrazol-3-ylamine (47 mg, 0.2 mmol) and N-ethyldiisopropylamine (0.1 ml, 0.6 mmol). The yellow suspension was cooled to 0°, and propylphosphonic anhydride (0.31 ml, 1 mmol; 50% in AcOEt) was added. The suspension was stirred at 0° for 30 min. and at r.t overnight. The solvent was evaporated. After silica gel chromatography using a CH2Cl2/MeOH gradient, the product was obtained as yellow solid in 29% yield. MS: M=481.3 (M+H)+

reactant | 6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid | 0.2 mmol, 50 mg | C1(CC1)C1=CC=C(C(=N1)C(=O)O)NC=1C=NC=NC1 | C13H12N4O2
reactant | 2-cyclohexyl-5-pyridin-2-yl-2H-pyrazol-3-ylamine | 0.2 mmol, 47 mg | C1(CCCCC1)N1N=C(C=C1N)C1=NC=CC=C1 | C14H18N4
reactant | N-ethyldiisopropylamine | 0.6 mmol, 0.1 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | propylphosphonic anhydride | 1 mmol, 0.31 ml | CCCP(=O)=O | C3H7O2P
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid (2-cyclohexyl-5-pyridin-2-yl-2H-pyrazol-3-yl)-amide | 29% yield | C1(CCCCC1)N1N=C(C=C1NC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)C1CC1)C1=NC=CC=C1 | C27H28N8O
